US09255090B2
To a solution of chroman-(4E)-ylidene-acetic acid ethyl ester and chroman-(4Z)-ylidene-acetic acid ethyl ester (1.68 g, 7.47 mmol, 1 eq.) in EtOH (91 mL) under N2, palladium on activated carbon (10 wt. %, 168 mg) was added. The flask was carefully evacuated and refilled with H2 (3×). The black suspension was stirred at 45° C. under an H2-atmosphere for 18 hours. The black suspension was filtered through Celite. The Celite was rinsed with EtOH. The filtrate was concentrated in vacuo to give (±)-chroman-4-yl-acetic acid ethyl ester as a grey oil. The product was used without further purification.

reactant | chroman-(4E)-ylidene-acetic acid ethyl ester | C(C)OC(/C=C/1\CCOC2=CC=CC=C12)=O | C13H14O3
reactant | chroman-(4Z)-ylidene-acetic acid ethyl ester | 7.47 mmol, 1.68 g, 1 eq. | C(C)OC(\C=C/1\CCOC2=CC=CC=C12)=O | C13H14O3
solvent | EtOH | 91 mL | CCO | C2H6O
catalyst | palladium on activated carbon | 168 mg | [Pd] | Pd
product | (±)-chroman-4-yl-acetic acid ethyl ester | C(C)OC(CC1CCOC2=CC=CC=C12)=O | C13H16O3
